US04952580
A stirred solution of 7.0 grams (0.038 mole) of 4-chlorophenylacetic acid hydrazide, 3.0 grams (0.039 mole) of carbon disulfide and 2.8 grams (0.050 mole) of potassium hydroxide in 10 ml of water and 200 ml of ethanol was heated under reflux for four hours. The ethanol was removed under reduced pressure. The concentrate was taken up in water and the mixture washed with diethyl ether. The aqueous layer was acidified with aqueous 5% hydrochloric acid and then was extracted with diethyl ether. The extract was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to yield 3.9 grams of 2-(4-chlorophenylmethyl)-5-mercapto-1,3,4-oxadiazole; m.p. 115° C. The nmr spectrum was consistent with the proposed structure.

reactant | 4-chlorophenylacetic acid hydrazide | 0.038 mole, 7.0 grams | ClC1=CC=C(C=C1)CC(=O)NN | C8H9ClN2O
reactant | carbon disulfide | 0.039 mole, 3.0 grams | C(=S)=S | CS2
reactant | potassium hydroxide | 0.050 mole, 2.8 grams | [OH-].[K+]
solvent | water | 10 ml | O | H2O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-(4-chlorophenylmethyl)-5-mercapto-1,3,4-oxadiazole | 3.9 grams | ClC1=CC=C(C=C1)CC=1OC(=NN1)S | C9H7ClN2OS
